US05965559
Using an analogous procedure to that described in Example 1, 1-(4-pyridyl)piperidine-4-carbonyl chloride was reacted with ethyl 1-(6-bromonaphth-2-ylsulphonyl)piperazine-3-carboxylate to give 4-(6-bromonaphth-2-ylsulphonyl)-2-ethoxycarbonyl-1-[1-(4-pyridyl)piperidin-4-ylcarbonyl]piperazine in 42% yield, m.p. 117-121° C.;

reactant | 1-(4-pyridyl)piperidine-4-carbonyl chloride | N1=CC=C(C=C1)N1CCC(CC1)C(=O)Cl | C11H13ClN2O
reactant | ethyl 1-(6-bromonaphth-2-ylsulphonyl)piperazine-3-carboxylate | BrC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(NCC1)C(=O)OCC | C17H19BrN2O4S
product | 4-(6-bromonaphth-2-ylsulphonyl)-2-ethoxycarbonyl-1-[1-(4-pyridyl)piperidin-4-ylcarbonyl]piperazine | 42% yield | BrC=1C=C2C=CC(=CC2=CC1)S(=O)(=O)N1CC(N(CC1)C(=O)C1CCN(CC1)C1=CC=NC=C1)C(=O)OCC | C28H31BrN4O5S
